US04985419
A solution of ethyl (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propionate (157.6 g) in dry tetrahydrofuran (720 cc) is added to a suspension of sodium borohydride 25.8 g) in anhydrous tetrahydrofuran (700 cc) containing ethanedithiol (57 cc). The mixture is brought to reflux for 20 hours and then cooled to 5° C., and 4N sodium hydroxide solution (1 liter) is added slowly. The reaction mixture is diluted with methylene chloride (2 liters) and stirred for 15 minutes. The constituents of the mixture are allowed to settle and the organic phase is separated and washed with distilled water (4×1.5 liters), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is purified by chromatography on a column (height: 80 cm; diameter: 8 cm) of silica (0.02-0.6 mm), eluting with mixtures of ethyl acetate and cyclohexane in proportions of 15:85 (15 liters) and 36:65 (10 liters), collecting 600-cc fractions. The first 8 liters are discarded, and fractions 21 to 28 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give 7-chloro-10-[(2RS)-1-hydroxy-2-propyl]-2-phenothiazinecarbonitrile (80 g).

reactant | ethyl (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propionate | 157.6 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(C(=O)OCC)C)C#N | C18H15ClN2O2S
reactant | sodium borohydride | 25.8 g | [BH4-].[Na+]
reactant | ethanedithiol | 57 cc | C(C)(S)S | C2H6S2
reactant | sodium hydroxide | 4N, 1 liter | [OH-].[Na+]
solvent | tetrahydrofuran | 720 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 cc | O1CCCC1 | C4H8O
solvent | methylene chloride | 2 liters | C(Cl)Cl | CH2Cl2
product | 7-chloro-10-[(2RS)-1-hydroxy-2-propyl]-2-phenothiazinecarbonitrile | 80 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CO)C)C#N | C16H13ClN2OS
